US07550629B2
B. 2-(4-Chloro-3-fluoro-benzenesulfonylamino)-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester
To a vial containing a solution of 4-chloro-3-fluorobenzenesulfonyl chloride (181 mg, 0.79 mmol) and 2-amino-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester (200 mg, 0.79 mmol) in anhydrous dichloroethane (3 mL) was added pyridine (192 μL). The vial was capped and shaken for 18 h. The solvent was removed in vacuo and the residue transferred to a separatory funnel with EtOAc (100 mL) and washed with distilled water (100 mL×2). The organic layer was removed and the combined aqueous washings were extracted with EtOAc (100 mL×2). The organic extracts were combined, washed with brine (100 mL), dried (MgSO4), filtered, and evaporated to give a yellow solid (220 mg). This material was adsorbed onto silica gel and purified by column chromatography, eluent: HCCl3, to afford a white solid (186 mg, 53%). Mass Spectrum (+ESI): 446 [M−H]+.

reactant | 4-chloro-3-fluorobenzenesulfonyl chloride | 0.79 mmol, 181 mg | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)F | C6H3Cl2FO2S
reactant | 2-amino-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester | 0.79 mmol, 200 mg | C(C)OC(C(C(C(F)(F)F)C(F)(F)F)N)=O | C7H9F6NO2
reactant | pyridine | 192 μL | N1=CC=CC=C1 | C5H5N
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | 2-(4-Chloro-3-fluoro-benzenesulfonylamino)-4,4,4-trifluoro-3-trifluoromethyl-butyric acid ethyl ester | 220 mg | C(C)OC(C(C(C(F)(F)F)C(F)(F)F)NS(=O)(=O)C1=CC(=C(C=C1)Cl)F)=O | C13H11ClF7NO4S
